US06949542B2
(5-Dimethylamino-2-{3-[3-(6-methyl-pyridin-2-yl)-phenyl]-3-oxo-propionylamino}-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester
The title compound was prepared from (2-amino-5-dimethylamino-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester (Example J1) (239 mg, 0.75 mmol) and 3-[3-(6-methyl-pyridin-2-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester (Example K11) (234 mg, 0.75 mmol) according to the general procedure M. Obtained as an amorphous light brown substance (339 mg, 67%).

reactant | (2-amino-5-dimethylamino-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | 0.75 mmol, 239 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)C)C(F)(F)F)N)=O | C14H20F3N3O2
reactant | 3-[3-(6-methyl-pyridin-2-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester | 0.75 mmol, 234 mg | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C1=NC(=CC=C1)C)=O | C19H21NO3
product | (5-Dimethylamino-2-{3-[3-(6-methyl-pyridin-2-yl)-phenyl]-3-oxo-propionylamino}-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)C)C(F)(F)F)NC(CC(=O)C1=CC(=CC=C1)C1=NC(=CC=C1)C)=O)=O | C29H31F3N4O4
